US08247421B2
Step 5: Trans-(R)-N-(4-((R)-1-aminoethyl)cyclohexyl)-2-hydroxypropanamide
Trans-tert-butyl (R)-1-(4-((R)-2-hydroxypropanamido)cyclohexyl)ethylcarbamate (66 mg, 0.21 mmol) was dissolved in dichloromethane (10 mL). A solution of HCl in dioxane (209.9 μL of 4 M, 0.84 mmol) was added. The reaction mixture was stirred at ambient temperature for 18 hours. The crude mixture was concentrated in vacuo and coevaporated three times with diethylether. The residue was dissolved in methanol (10 mL), passed through a sodium bicarbonate cartridge and concentrated in vacuo to give the desired compound as a white solid (45 mg, quantitative yield).

reactant | Trans-tert-butyl (R)-1-(4-((R)-2-hydroxypropanamido)cyclohexyl)ethylcarbamate | 0.21 mmol, 66 mg | O[C@@H](C(=O)N[C@@H]1CC[C@H](CC1)[C@@H](C)NC(OC(C)(C)C)=O)C | C16H30N2O4
reactant | HCl | Cl | ClH
reactant | dioxane | 0.84 mmol, 4 M, 209.9 μL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Trans-(R)-N-(4-((R)-1-aminoethyl)cyclohexyl)-2-hydroxypropanamide | 45 mg, quantitative yield | N[C@H](C)[C@@H]1CC[C@H](CC1)NC([C@@H](C)O)=O | C11H22N2O2
